US08183245B2
To a stirred solution of tert-butyl 3-hydroxy-3-(trifluoromethyl)azetidine-1-carboxylate (0.37 g, 1.5 mmol) and 2,6-dichloropyrazine (0.23 g, 1.5 mmol) in DMF (5 mL) at 0° C. was added sodium hydride (60% mineral oil dispersion; 0.073 g, 1.8 mmol). The reaction mixture was allowed to warm to room temperature. After 15 minutes, the reaction mixture was partitioned between EtOAc (50 mL) and brine (50 mL). The organic layer was washed with additional brine (50 mL). The first aqueous layer was back-extracted with EtOAc (50 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (EtOAc/Hexanes gradient) to afford tert-butyl 3-[(6-chloropyrazine-2-yl)oxy]-3-(trifluoromethyl)azetidine-1-carboxylate. LRMS calculated for C13H15ClF3N3O3[M+H]+, 354.1; found 298.0 [M-tButyl+H]+. 1H NMR (600 MHz, DMSO-D6) 8.50 (s, 1H); 8.46 (s, 1H); 4.53 (br s, 2H); 4.20 (br d, 2H); 1.37 (s, 9H).

reactant | tert-butyl 3-hydroxy-3-(trifluoromethyl)azetidine-1-carboxylate | 1.5 mmol, 0.37 g | OC1(CN(C1)C(=O)OC(C)(C)C)C(F)(F)F | C9H14F3NO3
reactant | 2,6-dichloropyrazine | 1.5 mmol, 0.23 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | sodium hydride | 1.8 mmol, 0.073 g | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-[(6-chloropyrazine-2-yl)oxy]-3-(trifluoromethyl)azetidine-1-carboxylate | ClC1=CN=CC(=N1)OC1(CN(C1)C(=O)OC(C)(C)C)C(F)(F)F | C13H15ClF3N3O3
